US06143764
N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl)-N'-[1-(1-naphthyl)ethyl]urea [231]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (54 mg) was dissolved in toluene (5 ml) with heat, 1-(1-naphthyl)ethyl isocyanate (0.05 ml) was added, and the admixture was refluxed with heat for 100 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 65 mg of the title compound (yield: 72%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 54 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 1-(1-naphthyl)ethyl isocyanate | 0.05 ml | C1(=CC=CC2=CC=CC=C12)C(C)N=C=O | C13H11NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl)-N'-[1-(1-naphthyl)ethyl]urea | 65 mg, yield: 72% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC(C)C1=CC=CC2=CC=CC=C12 | C30H27N3O4
